US07385080B2
(+)-3-acetylamino-3-phenylpropanoic acid (207 mg, 1.00 mmol) prepared by the same manner as in Example 3 and 2.0 ml of 2M hydrochloric acid were added to a 30-ml two-necked flask equipped with a stirrer and heated to reflux for 3 hours. After 3 hours, 1 drop of concentrated hydrochloric acid was added to the reaction solution using a Pasteur pipette and the mixture was heated to reflux for 2 hours more. After completion of the reaction, the reaction solution was evaporated to dryness in vacuo, and the resulting residue was washed with a mixed solvent of methanol/diisopropyl and recrystallized from a mixed solvent of 2-propanol/99% ethanol to give 79 mg (0.392 mmol) of (+)-3-amino-3-phenylpropanoic acid hydrochloride in a yield of 39.2% (melting point: 195 to 196° C., [α]D=−3.03° (c=1.0, methanol)).

reactant | (+)-3-acetylamino-3-phenylpropanoic acid | 1.00 mmol, 207 mg | C(C)(=O)NC(CC(=O)O)C1=CC=CC=C1 | C11H13NO3
reactant | hydrochloric acid | 2M, 2.0 ml | Cl | ClH
catalyst | hydrochloric acid | 1 drop | Cl | ClH
solvent | methanol | CO | CH4O
product | (+)-3-amino-3-phenylpropanoic acid hydrochloride | 0.392 mmol, 79 mg, yield of 39.2% | Cl.NC(CC(=O)O)C1=CC=CC=C1 | InChI=1S/C9H11NO2.ClH/c10-8(6-9(11)12)7-4-2-1-3-5-7;/h1-5,8H,6,10H2,(H,11,12);1H
